### ISSUE TITLE
Can't erase simprocs

### ISSUE THREAD

**Issue by JLimperg** [leanprover-community/aesop#113]
MWE:

```lean
import Aesop

example : True := by
  simp [-Nat.reduceAdd]

example : True := by
  aesop (erase simp [Nat.reduceAdd])
  -- aesop: 'Nat.reduceAdd' is not registered (with the given features) in any rule set.
```

`Nat.reduceAdd` is a simproc.
